US05885986
0.90 g (0.00219 mol) of 3-(4-dipropylaminomethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 25 ml of ethanol was treated with 0.59 ml (0.00218 mol) of 3.7N ethanolic hydrochloric acid. After stirring at room temperature for 10 minutes the solution obtained was completely freed from the solvents. The residue was recrystallized from ethanol/ether. There was obtained 0.90 g (92%) of 3-(4-dipropylaminomethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1) as white crystals; m.p. 216°-218°.

reactant | 3-(4-dipropylaminomethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.00219 mol, 0.90 g | C(CC)N(CCC)CC=1N=C(SC1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C22H27N5OS
reactant | hydrochloric acid | 0.00218 mol, 3.7N, 0.59 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-(4-dipropylaminomethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 0.90 g, 92% | Cl.C(CC)N(CCC)CC=1N=C(SC1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | InChI=1S/C22H27N5OS.ClH/c1-4-10-26(11-5-2)12-16-14-29-21(24-16)20-19-13-25(3)22(28)17-8-6-7-9-18(17)27(19)15-23-20;/h6-9,14-15H,4-5,10-13H2,1-3H3;1H
